US05561093
In a 500-ml glass reaction vessel, 4.3 g (33 mmol) of 2-methylindene was dissolved in 80 ml of tetrahydrofuran. 21 ml of a 1.6 M hexane solution of n-butyllithium was slowly added dropwise to the reaction vessel while cooling. The mixture was stirred at temperature for one hour, and then cooled again. To this mixture, 3.1 g of 1,2-dibromoethane was slowly added dropwise, and the resulting mixture was stirred at room tmperataure for 12 hours. 50 ml of water was added to the mixture, and the organic phase was fractionated. After drying, the organic phase was washed several times with heptane, and dried to give 2.9 g of bis-(2-methylindenyl)ethane.

reactant | 2-methylindene | 33 mmol, 4.3 g | CC=1CC2=CC=CC=C2C1 | C10H10
reactant | hexane | 1.6 M | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,2-dibromoethane | 3.1 g | BrCCBr | C2H4Br2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | bis-(2-methylindenyl)ethane | 2.9 g | CC=1C(C2=CC=CC=C2C1)C(C)C1C(=CC2=CC=CC=C12)C | C22H22
